US07592337B2
2-[2-(4-Pyridin-2-ylphenyl)-2H-tetrazol-5-yl]pyridine
A solution of 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine (300 mg, 1 mmol), 2-pyridylzinc bromide (0.5M in THF, 2 mL) and tetrakis-(triphenylphosphine)palladium(0) (100 mg, 0.085 mmol) in anhydrous THF (10 mL) was degassed for 15 min and heated to 60° C. After 4 hours, a further equivalent of 2- pyridylzinc bromide (0.5M in THF, 2 mL) was added and the reaction mixture was heated at reflux overnight. The reaction mixture was then quenched with brine (25 mL), extracted with EtOAc (3×25 mL), dried over Na2SO4 and concentrated in vacuo. The crude residue was chromotographed on silica gel, eluting with EtOAc to afford a yellow solid. This was dissolved in anhydrous THF (10 mL) and HCl in ether (1.5 equiv) was added and the resulting precipitate was filtered to afford a yellow solid.

reactant | 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine | 1 mmol, 300 mg | BrC1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8BrN5
reactant | 2-pyridylzinc bromide | 0.5M, 2 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | 2- pyridylzinc bromide | 0.5M, 2 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | HCl | Cl | ClH
reactant | ether | 1.5 equiv | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[2-(4-Pyridin-2-ylphenyl)-2H-tetrazol-5-yl]pyridine | N1=C(C=CC=C1)C1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C17H12N6
